US07932262B2
Step 1. 6-Bromo-7-methoxy-N-(4-morpholinophenyl)quinazolin-2-amine
To a 0.12M suspension of 6-bromo-2-chloro-7-methoxyquinazoline (1.0 eq) in isopropanol was added 4-morpholinoaniline (1.0 eq). The reaction mixture was heated to 120° C. in an oil bath for 5 h. LCMS showed that reaction was complete under the condition. The reaction mixture was allowed to cool to room temperature and was filtered. The filter cake was rinsed with ethyl acetate and allowed air dry. Desired product was a brown solid as HCl salt. ES/MS m/z 415/417 (MH+).

reactant | 6-bromo-2-chloro-7-methoxyquinazoline | 1.0 eq | BrC=1C=C2C=NC(=NC2=CC1OC)Cl | C9H6BrClN2O
reactant | 4-morpholinoaniline | 1.0 eq | O1CCN(CC1)C1=CC=C(N)C=C1 | C10H14N2O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 6-Bromo-7-methoxy-N-(4-morpholinophenyl)quinazolin-2-amine | BrC=1C=C2C=NC(=NC2=CC1OC)NC1=CC=C(C=C1)N1CCOCC1 | C19H19BrN4O2
